US07030124B2
2R,5S-1-allyl-2,5-dimethylpiperazine (6.99 g, 45.30 mmol, Chirotech Technology, Ltd., Cambridge, England), benzotriazole (5.45 g, 45.76 mmol, 1.01 eq.), and 3-formyl-N,N-diethylbenzamide (9.30 g, 45.30 mmol) were mixed in 300 mL of dry toluene with two drops of triethylamine. The mixture was placed in an oil bath maintained below 140° C. (bath temperature. The flask was attached to a Dean-Stark trap and reflux condenser to allow the azeotropic removal of water. The mixture was refluxed for 2–3 hours, under a nitrogen atmosphere, then the majority of the toluene was removed under reduced pressure. The crude adduct was used in the following procedure without isolation. The crude benzotriazole adduct was dissolved in 200 mL of tetrahydrofuran and phenylmagnesium bromide (1 M in THF, 1.75 equiv.) was added via a syringe. After stirring under nitrogen at room temperature for 2 hours, the reaction was quenched with 20 mL of saturated ammonium chloride solution. After stirring for 30 min, a generous amount of anhydrous magnesium sulfate was added. Filtering and concentrating the solution under reduced pressure gave the crude product contaminated with benzotriazole. This residue was dissolved in ethyl acetate and extracted with 10% aqueous NaOH solution three times to remove most of the benzotriazole. The organic layer was washed with saturated sodium chloride solution, dried over sodium sulfate/magnesium sulfate, and the ethyl acetate was removed under reduced pressure. The crude material was chromatographed on silica gel (20–25 g of silica gel per gram of crude material) eluting first with methylene chloride, then with 20% ethyl acetate in methylene chloride to remove the less polar contaminant. Then, the column was eluted with a solution of ethyl acetate containing 2% ammonium hydroxide (solution A) in a gradient with methylene chloride (solution B), quickly increasing in polarity from 25% to 100% (solution A in B). The desired fractions were combined and the solvent was removed under reduced pressure to give 5.52 g of (+)-3-((αR)-α-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)benzyl)-N,N-diethylbenzamide was obtained as a golden oil. 1H NMR (300 MHz, CDCl3): δ 0.96–0.98 (d, J=6.1 Hz, 3H); 0.98–1.15(m, 6H); 1.17–1.19(d, J=6.1 Hz, 3H); 1.80–1.85(t, 1H); 2.01–2.18 (m, 2H); 2.40–2.62 (m, 3H); 2.76–2.81 (m, 2H); 3.11–3.60 (m, 4H); 5.05–5.11 (dd, J1=6.1 Hz, J2=16.6 Hz, 2H); 5.16 (s, 1H); 5.75–5.90 (m, 1H); 7.14–7.17 (d, J=7.3 Hz, 1H); 7.21–7.47 (m, 8H).

reactant | benzotriazole | 45.76 mmol, 5.45 g, 1.01 eq. | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | 3-formyl-N,N-diethylbenzamide | 45.30 mmol, 9.30 g | C(=O)C=1C=C(C(=O)N(CC)CC)C=CC1 | C12H15NO2
reactant | phenylmagnesium bromide | 1 M, 1.75 equiv. | C1(=CC=CC=C1)[Mg]Br
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
catalyst | triethylamine | two drops | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (+)-3-((αR)-α-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)benzyl)-N,N-diethylbenzamide | 5.52 g | C(C=C)N1C[C@@H](N(C[C@H]1C)[C@H](C1=CC=CC=C1)C=1C=C(C(=O)N(CC)CC)C=CC1)C | C27H37N3O
